US06559127B1
N-(Toluene-4-sulfonyl)phenylglycine was esterified with thionyl chloride in methanol to give N-(toluene-4-sulfonyl)phenylglycine methyl ester. This was then taken up in dry acetone (50 mL) with iodomethane (1.1 eq, 1.88 mL) and K2CO3 (1.1 eq, 4.10 g). The solution was refluxed overnight. The solvent was evaporated under reduced pressure. EtOAc was added and the organic layer was washed with brine. The organic layer was dried over MgSO4. The solvent was evaporated under reduced pressure. The resulting ester was hydrolyzed using the procedure described in Method 6 to yield N-(Toluene-4-sulfonyl)-N-methylphenylglycine, which was coupled with L-phenylalanine ethyl ester using the procedure described in Method 3 to yield the title compound.

reactant | N-(Toluene-4-sulfonyl)phenylglycine | C1(=CC=C(C=C1)S(=O)(=O)N(CC(=O)O)C1=CC=CC=C1)C | C15H15NO4S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | N-(toluene-4-sulfonyl)phenylglycine methyl ester | COC(CN(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C16H17NO4S
